US08012976B2
tert-Butyl 3-methylpiperazine-1-carboxylate
To a solution of 2-methyl-piperazine (2.0 g, 0.02 mol) and triethylamine (6 mL) in methylene chloride (15 mL) at 0° C. was added (Boc)2O (4.14 g, 0.019 mol) dropwise. The mixture was stirred at room temperature for 1 hour, and then the solvent was removed by rotary evaporation. The residue was dissolved in methylene chloride, washed with saturated sodium bicarbonate and brine, dried over Na2SO4, and purified by column chromatography on silica gel (DCM:MeOH:Et3N=75:1:0.2) to give an white solid (1.65 g, 42%). LC-MS (ESI) m/z: 201 (M+1)+.

reactant | 2-methyl-piperazine | 0.02 mol, 2.0 g | CC1NCCNC1 | C5H12N2
reactant | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 0.019 mol, 4.14 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 3-methylpiperazine-1-carboxylate | 1.65 g, 42% | CC1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
